US04229464
25.7 g of the thus obtained 2,5-dimethyl-3-nitro-O-benzylphenol are added in portions during stirring to a mixture of 17 g freshly prepared potassium-tert.-butylate and 120 ml oxalic acid diethyl ester. After completion of the addition, the mixture is heated to 60° C. for two hours. After cooling, the composition is mixed with 200 ml ether and carefully acidified with diluted acetic acid. The ether phase is washed with neutral water, dried and evaporated. The still present oxalic ester is distilled off in the water jet vacuum at increased bath temperature. The residue is dissolved in ether and the solution is carefully mixed with ligroin. After aspirating and drying, there is obtained 30.6 g (~85° of theory) 2-benzyloxy-4-methyl-6-nitro-phenyl pyruvic acid ethyl ester; m.p. 80°-82° C.

reactant | 2,5-dimethyl-3-nitro-O-benzylphenol | CC1=C(C=C(C=C1[N+](=O)[O-])C)OCC1=CC=CC=C1 | C15H15NO3
reactant | oxalic acid diethyl ester | 120 ml | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | ether | 200 ml | CCOCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-benzyloxy-4-methyl-6-nitro-phenyl pyruvic acid ethyl ester | 30.6 g | C(C)OC(C(=O)CC1=C(C=C(C=C1[N+](=O)[O-])C)OCC1=CC=CC=C1)=O | C19H19NO6
